US08877774B2
Preparation of (R)-5-(2-Azido-1-(tert-butyldimethylsilyloxy)ethyl)-8-(benzyloxy)quinolin-2(1H)-one
(R)-8-(Benzyloxy)-5-(2-bromo-1-(tert-butyldimethylsilyloxy)ethyl)quinolin-2(1H)-one (5.0 g, 10.2 mmol) was dissolved in dimethyl formamide (90 mL) and water (10 mL). Sodium iodide (1.7 g, 11.3 mmol) and sodium azide (0.7 g, 11.3 mmol) were added sequentially. The reaction mixture was stirred at RT until all the solid was in solution. The solution was heated at 80° C. for 40 hours and then cooled to RT and diluted with water (300 mL). The aqueous layer was extracted with DCM, and the combined organic extracts were dried (magnesium sulfate), filtered, and concentrated under reduced pressure. The crude residue was recrystallised from ethyl acetate and iso-hexane to afford the desired compound (3.6 g, 78%), which was used without further purification in the next step.

reactant | (R)-8-(Benzyloxy)-5-(2-bromo-1-(tert-butyldimethylsilyloxy)ethyl)quinolin-2(1H)-one | 10.2 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CBr)O[Si](C)(C)C(C)(C)C | C24H30BrNO3Si
reactant | Sodium iodide | 11.3 mmol, 1.7 g | [I-].[Na+]
reactant | sodium azide | 11.3 mmol, 0.7 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl formamide | 90 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | water | 300 mL | O | H2O
product | (R)-5-(2-Azido-1-(tert-butyldimethylsilyloxy)ethyl)-8-(benzyloxy)quinolin-2(1H)-one | 3.6 g, 78% | N(=[N+]=[N-])C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C24H30N4O3Si
